US07030121B2
A mixture of 3-(6-methoxy-3-pyridinyl)-2-phenylpyrazolo[1,5-a]pyrazine (2.36 g) and concd. HCl (7.8 mL) in 1,4-dioxane (48 mL) was stirred at 100° C. for 1 h. After cooling to room temperature, to the reaction mixture was added 5N sodium hydroxide solution and adjusted to pH 8, extracted with EtOAc, washed with brine, dried over sodium sulfate, evaporated in vacuo. The resulting solid was collected by filtration and washed with ether to give 3-(2(1H)-pyridinon-5-yl)-2-phenylpyrazolo[1,5-a]pyrazine (1.95 g) as a solid.

reactant | 3-(6-methoxy-3-pyridinyl)-2-phenylpyrazolo[1,5-a]pyrazine | 2.36 g | COC1=CC=C(C=N1)C=1C(=NN2C1C=NC=C2)C2=CC=CC=C2 | C18H14N4O
reactant | HCl | 7.8 mL | Cl | ClH
reactant | sodium hydroxide | 5N | [OH-].[Na+]
solvent | 1,4-dioxane | 48 mL | O1CCOCC1 | C4H8O2
product | 3-(2(1H)-pyridinon-5-yl)-2-phenylpyrazolo[1,5-a]pyrazine | 1.95 g | N1C(C=CC(=C1)C=1C(=NN2C1C=NC=C2)C2=CC=CC=C2)=O | C17H12N4O
